US05726165
(R)-2-(4-Hydroxyphenyl)-1-methylethylcarbamic acid, t-butyl ester
(R)-4-(2-Aminopropyl)phenol (4.91 g, 0.0325 mol) in dichloromethane (240 ml) and dry dimethylformamide (50 ml) was treated with triethylamine (7.59 ml) and di-t-butyldicarbonate (11.77 g, 1.2 equiv.) and the mixture stirred at room temperature for 1 day. After evaporation of volatile material in vacuo, the residue was washed with diethyl ether. The combined portions of diethyl ether (500 ml) were washed with water (3×100 ml) and dried over anhydrous sodium sulfate. After evaporation to dryness the residue was chromatographed on silica gel with 0-3% methanol in dichloromethane to give the title compound as a gum that slowly solidified.

reactant | (R)-4-(2-Aminopropyl)phenol | 0.0325 mol, 4.91 g | N[C@@H](CC1=CC=C(C=C1)O)C | C9H13NO
reactant | triethylamine | 7.59 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 11.77 g, 1.2 equiv. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 240 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (R)-2-(4-Hydroxyphenyl)-1-methylethylcarbamic acid, t-butyl ester | OC1=CC=C(C=C1)C[C@@H](C)NC(OC(C)(C)C)=O | C14H21NO3
